US04159279
Pulverized N-hydroxymethyl-2-chloroacetamide (3.32 g., 0.027 mole) is added portionwise over 15 minutes to a solution of 2-methylthio-4-(1,1-dimethylethyl)phenol (5.3 g., 0.027 mole) and conc. sulfuric acid (10 ml.) in acetic acid (150 ml.) cooled in an ice bath. The resulting reaction mixture is stirred at 20° C. for 16 hours and then poured into ice-water (1 l.) whereupon a white gum is deposited. The gum is extracted with ether and the etheral extract, washed well with water and saturated brine. Removal of the solvent under reduced pressure leaves a residual solid which is dissolved in ethanol (30 ml.). The resulting solution is treated with 12 N hydrochloric acid (15 ml.) and heated at reflux for 4 hours. Evaporation in vacuo affords a residual solid which is triturated with ether and collected by filtration to give crude 2-aminomethyl-4-(1,1-dimethylethyl)-6-(methylthio)phenol hydrochloride (5.4 g., 76.4%), m.p. 150°-177° C. Two recrystallizations from ether-ethanol (10:1; v:v) followed by recrystallization from 12 N hydrochloric acid provides analytically pure 2-aminomethyl-4-(1,1-dimethylethyl)6-(methylthio)phenol hydrochloride as colorless crystals, m.p. 180°-181.5° C.

reactant | N-hydroxymethyl-2-chloroacetamide | 0.027 mole, 3.32 g | OCNC(CCl)=O | C3H6ClNO2
reactant | 2-methylthio-4-(1,1-dimethylethyl)phenol | 0.027 mole, 5.3 g | CSC1=C(C=CC(=C1)C(C)(C)C)O | C11H16OS
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | 12 N, 15 ml | Cl | ClH
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-aminomethyl-4-(1,1-dimethylethyl)6-(methylthio)phenol hydrochloride | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)SC)O | InChI=1S/C12H19NOS.ClH/c1-12(2,3)9-5-8(7-13)11(14)10(6-9)15-4;/h5-6,14H,7,13H2,1-4H3;1H
